US07884079B2
Preparation of lactyl-4-aminopyridine
A mixture of 4-aminopyridine (5 mmol) and lactyl acetate (5 mmol) is added to 0.1M carbodiimide [N-cyclohexyl-N′-2-(4-methyl-morpholinium) ethyl carbodiimide-p-toluene sulphonate or CMC] in distilled water adjusted to pH 4.5, such that the final volume is 200 ml. The reaction is performed for 24 hours at 4° C. The resulting lactyl-4-aminopyridine is collected as an oil and purified to pharmaceutical purity.

reactant | 4-aminopyridine | 5 mmol | NC1=CC=NC=C1 | C5H6N2
reactant | lactyl acetate | 5 mmol | C(C)(=O)OC(C(O)C)=O | C5H8O4
reactant | carbodiimide | 0.1M | N=C=N | CH2N2
solvent | water | O | H2O
product | lactyl-4-aminopyridine | C(C(O)C)(=O)C1=NC=CC(=C1)N | C8H10N2O2
